US03966766
A. Preparation of Tetraethylene Glycol Dibromide
300 g. of tetraethylene glycol and 100 g. of anhydrous pyridine are slowly added to 727 g. of phosphorus tribromide, while agitating and cooling the mixture. After cooling to room temperature, the mixture is poured on to ice and the organic phase is decanted, washed with water and dilute hydrochloric acid and dried over sodium sulphate. After distillation under vacuum (123°C-125°C and 0.4 mm. Hg) the title compound is obtained.

reactant | tetraethylene glycol | C(COCCOCCOCCO)O | C8H18O5
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Tetraethylene Glycol Dibromide | [Br-].[Br-].C(COCCOCCOCCO)O | InChI=1S/C8H18O5.2BrH/c9-1-3-11-5-7-13-8-6-12-4-2-10;;/h9-10H,1-8H2;2*1H/p-2
